US07504411B2
A solution of 4-cyanophenacyl bromide (11.20 g, 49.99 mmol) in dimethylsulfoxide (83 mL) was treated with water (0.90 mL, 49.99 mmol). After stirring for 24 h at room temperature, it was poured into ice-water, and extracted with ether. The organic layer was washed with water and then brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by a silica gel column chromatography eluting 20-50% ethyl acetate in hexane to afford 4-cyanophenylglyoxal (5.10 g, 64.1%) as a yellow solid.

reactant | 4-cyanophenacyl bromide | 49.99 mmol, 11.20 g | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
reactant | water | 49.99 mmol, 0.90 mL | O | H2O
solvent | dimethylsulfoxide | 83 mL | CS(=O)C | C2H6OS
product | 4-cyanophenylglyoxal | 5.10 g, 64.1% | C(#N)C1=CC=C(C=C1)C(=O)C=O | C9H5NO2
